US07728003B2
Step E. 8-Cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
m-CPBA (0.33 g, 1.5 mmol of a 70% w/w mixture) was added to a solution of 8-cyclohexyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.206 g, 0.59 mmol) in dichloromethane (15 mL). After 2 hours, a 10% solution of Na2SO3 (1 mL) was added and the mixture was partitioned between sat. NaHCO3 and dichloromethane. The organic layer was dried (MgSO4) and concentrated to provide 0.22 g of the title compound. Mass Spectrum (LCMS, ESI pos.) Calcd. For C17H21N3O5S: 379.12. found: (M+H) 380.1.

reactant | m-CPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 8-cyclohexyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.59 mmol, 0.206 g | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)SC)N(C1)C1CCCCC1)=O | C17H21N3O3S
reactant | Na2SO3 | 1 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 8-Cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.22 g | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCCC1)=O | C17H21N3O5S
